US04910306
A solution consisting of 102.4 mg (0.415 mmole) of 2-chlorosulfonyl-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine, 2.0 ml of acetonitrile, and 33.6 μl (0.415 mmole) of pyridine was stirred 5 minutes. N-trimethylsilyl-2,6-dichloroaniline, 86.9 μl (0.456 mmole) was added. The solution was stirred at room temperature for 16 hours and the reaction monitored by thin layer chromatography and by reverse phase HPLC. The 2-chlorosulfonyl compound gradually disappeared and a new peak appeared. The reaction was about 10-30 percent complete after 16 hours. An additional 33.6 μl of pyridine was added and the solution heated at 65° C. for 4 hours and at reflux for 16 hours. The solvent was removed under nitrogen and the residue treated with 4 ml of 0.5N NaOH and stirred for 0.5 hour. The solution was extracted with CH2Cl2, acidified with concentrated HCl and filtered. The precipitate was washed with water and dissolved in CH3CN. The resulting solution was heated to reflux, filtered through silica gel and the solvent removed in vacuo to obtain 119 mg (0.321 mmole, 77.2 percent yield) of N-(2,6-dichlorophenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide as a light yellow solid. The product was further purified by washing with acetone, and recrystallizing from refluxing CH3CN to obtain 91.5 mg (0.246 mmole) of product as a white powder, m.p. 263°-265° C.

reactant | 2-chlorosulfonyl-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine | 0.415 mmole, 102.4 mg | ClS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C7H7ClN4O2S
reactant | acetonitrile | 2.0 ml | C(C)#N | C2H3N
reactant | N-trimethylsilyl-2,6-dichloroaniline | C[Si](NC1=C(C=CC=C1Cl)Cl)(C)C | C9H13Cl2NSi
solvent | pyridine | 33.6 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.415 mmole, 33.6 μl | N1=CC=CC=C1 | C5H5N
product | N-(2,6-dichlorophenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 0.321 mmole, 119 mg, 77.2 percent yield | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C13H11Cl2N5O2S
